US05854234
(trans)-octahydro-1H-isoindol-1-one
A solution of trans-1,2-cyclohexanedicarboxylic anhydride (10 g, 65 mmol) in ammonium hydroxide (conc., 30 mL) was hydrogenated by the method of EXAMPLE 168 to yield 7.4 g (80%) of the title material.

reactant | trans-1,2-cyclohexanedicarboxylic anhydride | 65 mmol, 10 g | [C@@H]12[C@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
product | (trans)-octahydro-1H-isoindol-1-one | 7.4 g, 80% | C1(NC[C@@H]2CCCC[C@@H]12)=O | C8H13NO
